US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxy-ethyl)-1H-imidazol-4-yl]-amide
(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-acetic acid methyl ester was reduced using LAH to afford the title compound: C13 NMR (100 MHz, CDCl3) 12.8, 19.0, 34.3, 41.6, 49.8, 53.6, 61.1, 101.6, 101.8, 102.1, 108.4, 111.9, 112.1, 112.1, 134.0, 136.6, 162.0, 164.5, 170.3, 171.4; MS m/z 381.1 (M+1).

reactant | (4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C19H22F2N4O4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxy-ethyl)-1H-imidazol-4-yl]-amide | OCCN1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C18H22F2N4O3
